US04051136
A mixture of 4.0 grams of 2-anilino-3-hydroxy-4-(phenylimino)-2-cyclobuten-1-one and 3.4 grams of 1-ethylpiperazine is heated at 194°-198° C. in an atmosphere of dry nitrogen for 30 minutes. The cooled solid is comminuted, washed with anhydrous ethyl ether, and dried and the resulting solid is then extracted with 50 ml. of anhydrous benzene. The benzene solution is treated with activated carbon, filtered, concentrated and cooled. A crystalline solid forms and this is separated by filtration and dissolved in distilled water at room temperature and the solution is filtered and concentrated. A precipitate forms and is separated by filtration to give 1-[2-hydroxy-3-(4-ethyl-1-piperazinyl)-4-oxo-2-cyclobuten-1-ylidene]-4-ethylpiperazinium hydroxide inner salt melting at about 179.5°-183° C.

reactant | 2-anilino-3-hydroxy-4-(phenylimino)-2-cyclobuten-1-one | 4.0 grams | N(C1=CC=CC=C1)C=1C(C(C1O)=NC1=CC=CC=C1)=O | C16H12N2O2
reactant | 1-ethylpiperazine | 3.4 grams | C(C)N1CCNCC1 | C6H14N2
product | 1-[2-hydroxy-3-(4-ethyl-1-piperazinyl)-4-oxo-2-cyclobuten-1-ylidene]-4-ethylpiperazinium hydroxide | [OH-].OC=1C(C(C1N1CCN(CC1)CC)=O)=[N+]1CCN(CC1)CC | InChI=1S/C16H26N4O2.H2O/c1-3-17-5-9-19(10-6-17)13-15(21)14(16(13)22)20-11-7-18(4-2)8-12-20;/h3-12H2,1-2H3;1H2
